US04003965
Freshly distilled propionaldehyde, 58.0g (1.0 mole), is added dropwise in 1 hr to a stirred mixture of 60.0g (1.0 mole) of powdered urea and 269.5g (1.0 mole) of crude tris (2-chloroethyl) phosphite at 105°-112° C. Heat of reaction keeps the temperature at this level without external warming during most of the aldehyde addition. The reaction mixture is warmed for 0.25 hr more, and then it is stripped to 122°/2mm, giving a viscous, yellow residue, crude bis(2-chloroethyl) 1-ureidopropylphosphonate. This is dissolved in 100ml of acetonitrile and 36g (2.0 moles) of water, and the solution is warmed at reflux for 1 hr. A solid forms during warming and is separated by filtration of the warm reaction mixture; and then it is stirred and warmed in more acetonitrile and water, and the mixture is filtered while warm to give 76.2g (42%) of white solid, mp 185°-186° dec. A 5.0-g portion is recrystallized from acetic acid-water to give 3.2g: mp 189°-191° dec; 31P nmr (CD3SOCD3) -23.0 ppm(m); 1H nmr δ 8.5 (broad, 4, OH and NH2), 6.2 (broad, 1, NH), 3.7 (broad, 1, CH), 1.6 and 0.9 (broad, 5, CH2CH3); acidity 2.01 equiv/mole, pK1 2.70, pK2 7.30.

reactant | propionaldehyde | C(CC)=O | C3H6O
reactant | urea | 1.0 mole, 60.0g | NC(=O)N | CH4N2O
reactant | tris (2-chloroethyl) phosphite | P(OCCCl)(OCCCl)OCCCl | C6H12Cl3O3P
product | bis(2-chloroethyl) 1-ureidopropylphosphonate | N(C(=O)N)C(CC)P(OCCCl)(OCCCl)=O | C8H17Cl2N2O4P
